US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-methyl-2H-pyrazol-3-yl)-amide
Starting from 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (0.23 g) and 2-methyl-2H-pyrazol-3-ylamine (0.1 g). Purification by column chromatography on silica eluting with 5% methanol in dichloromethane afforded the title compound as a cream solid (0.10 g).

reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 0.23 g | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
reactant | 2-methyl-2H-pyrazol-3-ylamine | 0.1 g | CN1N=CC=C1N | C4H7N3
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-methyl-2H-pyrazol-3-yl)-amide | 0.10 g | CN1N=CC=C1NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C15H14F2N4O3
